US06492383B1
(1H-Indol-5-yl)-[6-(4-methylsulfanyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine
The title compound was prepared from 4-(methylthio)benzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.4 (s, 1H), 11.2 (s, 1H), 8.82 (s, 1H), 7.76 (d, 2H), 7.76 (d, 2H), 7.61 (s, 2H), 7.51 (m, 2H), 7.35 d, 2H), 7.22 (d, 1H), 6.50 (s, 1H), 2.49 (s, 3H), M.P. 163-178° C.; LC-MS 389 (MH+); HPLC RT: 4.73 minutes.

reactant | 4-(methylthio)benzeneboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | (1H-Indol-5-yl)-[6-(4-methylsulfanyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)SC | C21H16N4S2
